// 65nm port — bare nch/pch, VDD 1.2V. // Ported from circuit-bench differential-pair (R-loaded NMOS diff pair).
// Topology preserved; devices -> FOUNDRY28 nch, VDD 1.0V, L 180n->150n.
simulator lang=spectre
global 0
parameters vcm=0.6 vid=0
v_vdd (VDD 0) vsource dc=1.2 type=dc
v_inp (INP 0) vsource dc=vcm+vid/2 type=dc
v_inn (INN 0) vsource dc=vcm-vid/2 type=dc
RP (VDD OUTP) resistor r=22k
RN (VDD OUTN) resistor r=22k
MP (OUTP INP TAIL 0) nch l=150n w=12u multi=1 nf=6
MN (OUTN INN TAIL 0) nch l=150n w=12u multi=1 nf=6
RTAIL (TAIL 0) resistor r=12k
simulatorOptions options temp=27 tnom=27 gmin=1e-12
dc dc param=vid start=-0.15 stop=0.15 step=0.01 annotate=status
save OUTP OUTN TAIL
saveOptions options save=selected
